US04376771
6.0 g (29.6 millimoles) of 6-(p-aminophenyl)-5-methyl-4,5-dihydropyridaz-3-one and 4.1 g (32.3 millimoles) of 3-chloropropionyl chloride are stirred with 100 ml of absolute toluene for 4 hours at 80° C. The product is filtered off at 10° C., washed with water and dried under reduced pressure at 50° C. 5.8 g (67% of theory) of 6-[p-(3-chloropropionylamino)-phenyl]-5-methyl-4,5-dihydropyridaz-3-one are obtained as beige crystals which, after recrystallization from methanol, melt, with decomposition, at 221°-223° C.

reactant | 6-(p-aminophenyl)-5-methyl-4,5-dihydropyridaz-3-one | 29.6 millimoles, 6.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 3-chloropropionyl chloride | 32.3 millimoles, 4.1 g | ClCCC(=O)Cl | C3H4Cl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[p-(3-chloropropionylamino)-phenyl]-5-methyl-4,5-dihydropyridaz-3-one | 5.8 g, 67% | ClCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H16ClN3O2
